US04098812
4-Chloro-α-methoxy-5-nitro-o-tolunitrile
A sample of 4-chloro-α-methoxy-5-nitro-o-toluamide (0.8 g) is added to phosphorus oxychloride (10 ml) and the slurry gradually heated to reflux. After about 10 minutes at reflux, all the solid has dissolved giving a clear yellow solution. The solution is concentrated in vacuo and the crude residue is portioned between ether and water. The ether layer is separated and dried. Removal of the drying agent and concentration of the filtrate in vacuo leaves a crude solid (0.7 g.) with mp 57°-59°.

reactant | 4-chloro-α-methoxy-5-nitro-o-toluamide | 0.8 g | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)N | C9H9ClN2O4
solvent | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-α-methoxy-5-nitro-o-tolunitrile | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C#N | C9H7ClN2O3
